US08293768B2
A mixture of L-phenylalanine methyl ester hydrochloride (6.50 g, 30.1 mmol) and ammonium hydroxide solution (28% in water, 15 mL) in water (60 mL) was stirred at ambient temperature for 64 h. The aqueous layer was extracted with dichloromethane (6×100 mL), and the combined organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to afford (S)-2-amino-3-phenylpropanamide as a colorless solid in 59% yield (2.92 g): 1H NMR (300 MHz, DMSO-d6) δ 7.38-7.21 (m, 5H), 7.12 (br s, 1H), 5.44 (br s, 1H), 3.63 (dd, J=9.5, 3.9 Hz, 1H), 3.28 (dd, J=13.7, 3.9 Hz, 1H), 2.72 (dd, J=13.7, 9.5 Hz, 1H), 1.41 (br s, 2H).

reactant | L-phenylalanine methyl ester hydrochloride | 30.1 mmol, 6.50 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | ammonium hydroxide | 15 mL | [OH-].[NH4+]
solvent | water | 60 mL | O | H2O
product | (S)-2-amino-3-phenylpropanamide | 59% yield | N[C@H](C(=O)N)CC1=CC=CC=C1 | C9H12N2O
